US03952031
3αHydroxy-2β-thiocyanato-5α-pregnane-11,20-dione
2α,3α-Epoxy-5α-pregnane-11,20-dione (500 mg.) and potassium thiocyanate (2 g.) in dry tetrahydrofuran (40 ml.) were treated with tetraphosphoric acid (about 2 ml.), and the reaction was stirred at room temperature for 2 hours. Perchloric acid (60%, 0.1 ml.) was added, and after a further 30 minutes the solution was diluted with water and extracted with ether. The extract was washed with water, dried over sodium sulphate and evaporated to give a colourless oil which was purified by preparative tlc and recrystallisation from acetone/petrol to give the title compound, as white prisms m.p. 165°-170° [α]D + 78°.

reactant | 2α,3α-Epoxy-5α-pregnane-11,20-dione | 500 mg | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]1(C2)C)=O)C | C21H30O3
reactant | potassium thiocyanate | 2 g | [S-]C#N.[K+]
reactant | tetraphosphoric acid | about 2 ml | P(=O)(O)(O)OP(=O)(O)OP(=O)(O)OP(=O)(O)O | H6O13P4
reactant | Perchloric acid | 0.1 ml | Cl(=O)(=O)(=O)O | ClHO4
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3αHydroxy-2β-thiocyanato-5α-pregnane-11,20-dione | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C[C@@H]1SC#N)C)=O)C | C22H31NO3S
